US07566735B2
N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)acetamide
The title compound was prepared from N-[(4-bromophenyl)methyl]-N-methylacetamide and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 1.

reactant | N-[(4-bromophenyl)methyl]-N-methylacetamide | BrC1=CC=C(C=C1)CN(C(C)=O)C | C10H12BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)acetamide | CN(C(C)=O)CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C18H20F3N3O
